US04543361
Conversion of Free Base to Salt Preparation of 2-[Phenethyl]-5-[(3,4-Methylendioxy)α-Hydroxybenzyl]Pyrrolidine Hydrochloride
Excess 3% hydrogen chloride in methanol is added to a solution of 1.0 g of ±2-[phenethyl]-5-[(3,4-methylenedioxy)-α-hydroxybenzyl]pyrrolidine in 20 ml of methanol. Diethyl ether is added until precipitation is complete. ±2-[phenethyl]-5-[(3,4-methylenedioxy)-α-hydroxybenzyl]pyrrolidine hydrochloride is filtered, washed with ether, air dried and recrystallized.

reactant | hydrogen chloride | Cl | ClH
reactant | 2-[phenethyl]-5-[(3,4-methylenedioxy)-α-hydroxybenzyl]pyrrolidine | 1.0 g | C(CC1=CC=CC=C1)C1NC(CC1)C(C1=CC2=C(C=C1)OCO2)O | C20H23NO3
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | methanol | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | 2-[Phenethyl]-5-[(3,4-Methylendioxy)α-Hydroxybenzyl]Pyrrolidine Hydrochloride | Cl.C(CC1=CC=CC=C1)C1NC(CC1)C(C1=CC2=C(C=C1)OCO2)O | InChI=1S/C20H23NO3.ClH/c22-20(15-7-11-18-19(12-15)24-13-23-18)17-10-9-16(21-17)8-6-14-4-2-1-3-5-14;/h1-5,7,11-12,16-17,20-22H,6,8-10,13H2;1H
